US07244726B2
tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)piperidine-1-carboxylate (D5)
Triphenylphosphine (0.577 g, 2.2 mmol) was dissolved in dry tetrahydrofuran (20 mL) under argon and the solution cooled to 0–5° C. Diisopropyl azodicarboxylate (0.404 g, 2 mmol) was added dropwise and the mixture stirred at 0–5° C. for 20 min. before addition of 7-hydroxy-3,4-dihydro-1H-quinolin-2-one (0.326 g, 2 mmol) and 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (0.402 g, 2 mmol). The resulting mixture was stirred at ambient temperature for 18 h then evaporated to dryness under reduced pressure. Chromatography on SiO2, eluting with a gradient of ethyl acetate in 60–80° C. petroleum ether, gave the title compound (0.2 g, 29%) as a white solid.

reactant | Triphenylphosphine | 2.2 mmol, 0.577 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 2 mmol, 0.404 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 7-hydroxy-3,4-dihydro-1H-quinolin-2-one | 2 mmol, 0.326 g | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 2 mmol, 0.402 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)piperidine-1-carboxylate | 0.2 g, 29% | O=C1NC2=CC(=CC=C2CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O4
